### PR TITLE
prove that longest common prefixes and suffixes are longest

### PR DESCRIPTION
**Pull request by palmskog**
Since our users are not likely to be knowledgeable of category theory, and it's good to have validated all relevant properties of functions we are likely to use, here are the "missing" proofs.

### CODE REVIEW

File: theories/VLSM/Lib/ListExtras.v [hunk 1]
```diff
@@ -1745,6 +1745,18 @@ Proof.
...
+Lemma longest_common_prefix_is_longest :
+  forall (l1 l2 p r1 r2 p' : list A),
+   longest_common_prefix l1 l2 = (p, r1, r2) ->
+   prefix p' l1 -> prefix p' l2 ->
+   length p' <= length p.
+Proof.
+intros l1 l2 p r1 r2 p' Hlc  Hp1 Hp2.
+pose proof prefix_longest_common_prefix _ _ _ Hp1 Hp2 as Hlet.
+destruct (longest_common_prefix l1 l2), p0.
+by inversion Hlc; subst; apply prefix_length.
```
Comment (wkolowski) [inline theories/VLSM/Lib/ListExtras.v:1757]: It looks like the indentation is off by 2 spaces. Also, it's a bit better to do `destruct (longest_common_prefix l1 l2) as [[]]` to avoid that autogenerated `p0`.

```suggestion
  intros l1 l2 p r1 r2 p' Hlc  Hp1 Hp2.
  pose proof prefix_longest_common_prefix _ _ _ Hp1 Hp2 as Hlet.
  destruct (longest_common_prefix l1 l2) as [[]].
  by inversion Hlc; subst; apply prefix_length.
```

File: theories/VLSM/Lib/ListExtras.v [hunk 2]
```diff
@@ -1856,6 +1868,18 @@ Proof.
...
+Lemma longest_common_suffix_is_longest :
+  forall (l1 l2 p r1 r2 p' : list A),
+   longest_common_suffix l1 l2 = (p, r1, r2) ->
+   suffix p' l1 -> suffix p' l2 ->
+   length p' <= length p.
+Proof.
+intros l1 l2 p r1 r2 p' Hlc  Hp1 Hp2.
+pose proof suffix_longest_common_suffix _ _ _ Hp1 Hp2 as Hlet.
+destruct (longest_common_suffix l1 l2), p0.
+by inversion Hlc; subst; apply suffix_length.
```
Comment (wkolowski) [inline theories/VLSM/Lib/ListExtras.v:1880]: Same as above.

```suggestion
  intros l1 l2 p r1 r2 p' Hlc  Hp1 Hp2.
  pose proof suffix_longest_common_suffix _ _ _ Hp1 Hp2 as Hlet.
  destruct (longest_common_suffix l1 l2) as [[]].
  by inversion Hlc; subst; apply suffix_length.
```

**Review by wkolowski — APPROVED** [review]
Looks ok, but please address the comments.
